US07566781B2
Methyl 4-(pyridin-2-yloxymethyl)benzenecarboxylate
Triphenyl phosphine (614 mg) and a THF solution (1 mL) of diethyl azodicarboxylate (408 mg) were added in that order to a THF solution (20 mL) of 2-hydroxypyridine (149 mg) and methyl 4-hydroxymethylbenzenecarboxylate (260 mg), and stirred overnight at room temperature. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 2/3 to ethyl acetate alone) to obtain the entitled compound (85 mg).

reactant | Triphenyl phosphine | 614 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 408 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxypyridine | 149 mg | OC1=NC=CC=C1 | C5H5NO
reactant | methyl 4-hydroxymethylbenzenecarboxylate | 260 mg | OCC1=CC=C(C=C1)C(=O)OC | C9H10O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Methyl 4-(pyridin-2-yloxymethyl)benzenecarboxylate | 85 mg | N1=C(C=CC=C1)OCC1=CC=C(C=C1)C(=O)OC | C14H13NO3
